US05003569
A chloroform solution of heptacosa-10,12-diynoic acid was allowed to spread over the surface of a water solution of 4×10-4M cadmium chloride and 5×10-5M potassium bicarbonate; the solvent was then evaporated and the surface pressure is raised to 10 mN/m, thus forming a film of cadmium heptacosa-10,12-diynoate on the surface of the water. The Langmuir-Blodgett method was used to laminate 11 layers of this film onto a glass substrate, the surface of which had been treated to be hydrophilic.

reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | heptacosa-10,12-diynoic acid | C(CCCCCCCCC#CC#CCCCCCCCCCCCCCC)(=O)O | C27H46O2
reactant | cadmium chloride | 4×10-4M | [Cl-].[Cd+2].[Cl-]
reactant | potassium bicarbonate | 5×10-5M | C([O-])(O)=O.[K+]
solvent | water | O | H2O
product | cadmium heptacosa-10,12-diynoate | C(CCCCCCCCC#CC#CCCCCCCCCCCCCCC)(=O)[O-].[Cd+2].C(CCCCCCCCC#CC#CCCCCCCCCCCCCCC)(=O)[O-] | InChI=1S/2C27H46O2.Cd/c2*1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-21-22-23-24-25-26-27(28)29;/h2*2-14,19-26H2,1H3,(H,28,29);/q;;+2/p-2
